US07906546B2
To 402 mg (0.84 mmol) of (RS,SR)-2-benzenesulfonyl-2-(6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazol-2yl)-propionic acid methyl ester in 6 mL of THF, 1.0 mL (1.0 mmol, 1.2 eq) of LiAlH4 in THF was added at RT. After 30 min, the reaction mixture was poured into water and extracted with EtOAc, dried over Na2SO4, and evaporation of the solvent afforded (RS,SR)-2-benzenesulfonyl-2-(6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propan-1-ol as a colorless oil, MS: 465 (MNH4+). The crude material was used in the next step without further purification.

reactant | (RS,SR)-2-benzenesulfonyl-2-(6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazol-2yl)-propionic acid methyl ester | 0.84 mmol, 402 mg | COC(C(C)(C1CC=2N(C3=CC=C(C=C3C2CC1)Cl)COC)S(=O)(=O)C1=CC=CC=C1)=O | C24H26ClNO5S
reactant | LiAlH4 | 1.0 mmol, 1.0 mL, 1.2 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (RS,SR)-2-benzenesulfonyl-2-(6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propan-1-ol | C1(=CC=CC=C1)S(=O)(=O)C(CO)(C)C1CC=2N(C3=CC=C(C=C3C2CC1)Cl)COC | C23H26ClNO4S
